US06670373B1
N-(3,4,5-Trimethoxyphenyl)-3-(5-methyl(tetrahydropyran-2-yl)-3-(2-chloro-6-fluoro-phenyl)isoxazol-4-oyl)aminophenyl Acetamide
A mixture of 4-methoxycarbonyl-5-methyl(tetrahydropyran-2-yl)-3-(2-chloro-6-fluoro-phenyl)isoxazole (2.95 g, 7.98 mmol), 2N NaOH (8.0 ml, 16.0 mmol), MeOH (20 ml), and THF (10 ml) was heated to 55° C. for 4 h. After cooling to 0° C., HCl (1N) was added until pH 3. The mixture was extracted with ethyl acetate (3×), and the combined extracts were washed (brine), dried (MgSO4), filtered, and concentrated to give the crude acid. The crude acid was dissolved in dichloromethane (50 ml) along with 2-(3-aminophenyl)-N-(3,4,5-trimethoxyphenyl)acetamide (3.80 g, 12.0 mmol), EDCI (3.33 g, 17.4 mmol), HOAt (2.72 g, 20.00 mmol), and DMAP (0.10 g, 0.80 mmol) and stirred at room temperature overnight. The mixture was applied to a silica gel column and eluted with dichloromethane/acetone (gradient) to give the title compound (2.61 g, 41%).

reactant | 4-methoxycarbonyl-5-methyl(tetrahydropyran-2-yl)-3-(2-chloro-6-fluoro-phenyl)isoxazole | 7.98 mmol, 2.95 g | COC(=O)C=1C(N(OC1C)C1OCCCC1)C1=C(C=CC=C1F)Cl | C17H19ClFNO4
reactant | NaOH | 16.0 mmol, 2N, 8.0 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | 2-(3-aminophenyl)-N-(3,4,5-trimethoxyphenyl)acetamide | 12.0 mmol, 3.80 g | NC=1C=C(C=CC1)CC(=O)NC1=CC(=C(C(=C1)OC)OC)OC | C17H20N2O4
reactant | EDCI | 17.4 mmol, 3.33 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 20.00 mmol, 2.72 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.80 mmol, 0.10 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH | 20 ml | CO | CH4O
product | N-(3,4,5-Trimethoxyphenyl)-3-(5-methyl(tetrahydropyran-2-yl)-3-(2-chloro-6-fluoro-phenyl)isoxazol-4-oyl)aminophenyl Acetamide | 2.61 g, 41% | COC=1C=C(C=C(C1OC)OC)NC(CC1=CC(=CC=C1)NC(=O)C=1C(N(OC1C)C1OCCCC1)C1=C(C=CC=C1F)Cl)=O | C33H35ClFN3O7
